US07585868B2
Synthesis of 1-isopropyl-3-(pyridin-3-yl)-1H-pyrazolo[3,4-d]pyrimidin-4-amine (BA52).
A solution of 3-Pyridinylboronic acid (15 mg, 0.14 mmol) in EtOH (3.3 mL) was added to a solution of 3-iodo-1-isopropyl-1H-pyrazolo[3,4-d]pyrimidin-4-amine (40 mg, 0.13 mmol) in DME (12 mL). Pd(PPh3)4 (15 mg, 0.015 mmol) and saturated Na2CO3 (1.9 mL) were added and the reaction was heated to 80° C. under an argon atmosphere overnight. After cooling, the reaction was extracted with saturated NaCl and CH2Cl2. Organic phases were combined, concentrated in vacuo and purified by RP-HPLC (MeCN:H2O) to yield BA52. ESI-MS (M+H)+ m/z calcd 255.1, found 255.0.

reactant | 3-Pyridinylboronic acid | 0.14 mmol, 15 mg | N1=CC(=CC=C1)B(O)O | C5H6BNO2
reactant | 3-iodo-1-isopropyl-1H-pyrazolo[3,4-d]pyrimidin-4-amine | 0.13 mmol, 40 mg | IC1=NN(C2=NC=NC(=C21)N)C(C)C | C8H10IN5
reactant | Na2CO3 | 1.9 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | EtOH | 3.3 mL | CCO | C2H6O
solvent | DME | 12 mL | COCCOC | C4H10O2
catalyst | Pd(PPh3)4 | 0.015 mmol, 15 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 1-isopropyl-3-(pyridin-3-yl)-1H-pyrazolo[3,4-d]pyrimidin-4-amine | C(C)(C)N1N=C(C=2C1=NC=NC2N)C=2C=NC=CC2 | C13H14N6
